US08076482B2
Preparation of chiral (2′S, 3S, 4′R)-6-chloro-4′-[5-chloro-2-(1-hydroxycarbonyl-1-methyl-ethoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)-6′-thioxo spiro[3H-indole-3,3′-piperidine]-2(1H)-one
A mixture of chiral (2′S, 3S, 4′R)-6-chloro-4′-[5-chloro-2-(1-hydroxycarbonyl-1-methyl-ethoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl) spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (30 mg, 0.052 mmol) and Lawesson's Reagent (40 mg, 0.09 mmol) in THF (1 mL) was stirred at room temperature for 3 h, then purified by flash column to give the title compound as white solid (7 mg).

reactant | 6-chloro-4′-[5-chloro-2-(1-hydroxycarbonyl-1-methyl-ethoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl) spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 0.052 mmol, 30 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC(C)(C)C(=O)O)=O)C1=C(C=CC(=C1)F)C)=O | C29H25Cl2FN2O5
reactant | Lawesson's Reagent | 0.09 mmol, 40 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 6-chloro-4′-[5-chloro-2-(1-hydroxycarbonyl-1-methyl-ethoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)-6′-thioxo spiro[3H-indole-3,3′-piperidine]-2(1H)-one | 7 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC(C)(C)C(=O)O)=S)C1=C(C=CC(=C1)F)C)=O | C29H25Cl2FN2O4S
